US05187265
Gantrez-N-6-aminohexylbenzoisothiazol-3-one
A solution of 1.0 g (3 mmol) of the above synthesized N-(6-aminohexyl)-5-nitrobenzoisothiazol-3-one hydrochloride in 25 mL of was prepared and 0.83 mL (5.9 mmol) of triethylamine added. This was added dropwise to a mixture of 0.89 g (6 mmol of anhydride) of Gantrez AN 119 (M.W. 20,000, GAF Corp.) in 15 mL of DMF. After stirring for 30 min, another 0.41 mL (3 mmol) of triethylamine in 45 mL of H2O was added and the mixture stirred for 30 min.

reactant | N-(6-aminohexyl)-5-nitrobenzoisothiazol-3-one hydrochloride | Cl.NCCCCCCN1SC2=C(C1=O)C=C(C=C2)[N+](=O)[O-]
reactant | triethylamine | 5.9 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | Gantrez AN 119 | 6 mmol, 0.89 g | COC=C.C1=CC(=O)OC1=O
reactant | triethylamine | 3 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 45 mL | O | H2O
product | Gantrez N-6-aminohexylbenzoisothiazol-3-one | COC=C.C1=CC(=O)OC1=O.NCCCCCCN1SC2=C(C1=O)C=CC=C2 | InChI=1S/C13H18N2OS.C4H2O3.C3H6O/c14-9-5-1-2-6-10-15-13(16)11-7-3-4-8-12(11)17-15;5-3-1-2-4(6)7-3;1-3-4-2/h3-4,7-8H,1-2,5-6,9-10,14H2;1-2H;3H,1H2,2H3
